US08791255B2
The product is prepared according to the procedure described in example 5, using 261 mg of sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate, 274 mg of 5-fluoroindoline and 254 mg of N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride in a mixture of 0.16 ml of pyridine and 4 ml of dimethylformamide. 197 mg of 2-[2-(5-fluoro-2,3-dihydroindol-1-yl)-2-oxoethyl]-6-morpholin-4-yl-3H-pyrimidin-4-one are obtained in the form of a very pale pink powder, the characteristics of which are the following:

reactant | sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 261 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)[O-].[Na+]
reactant | 5-fluoroindoline | 274 mg | FC=1C=C2CCNC2=CC1 | C8H8FN
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 254 mg | Cl.CN(CCCN=C=NCC)C
solvent | pyridine | 0.16 ml | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 2-[2-(5-fluoro-2,3-dihydroindol-1-yl)-2-oxoethyl]-6-morpholin-4-yl-3H-pyrimidin-4-one | 197 mg | FC=1C=C2CCN(C2=CC1)C(CC1=NC(=CC(N1)=O)N1CCOCC1)=O | C18H19FN4O3
